US09382228B2
A solution of 2-(4-methyl-1H-imidazol-1-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (1.3 g, 4.37 mmol) in MeOH (20 mL)/THF (20 mL) was treated sequentially with NH4Cl (7.02 g, 131 mmol) and zinc dust (2.86 g, 43.7 mmol) and stirred at RT for 2 h. The mixture was diluted with THF, the solids removed via filtration through diatomaceous earth, washed with THF and the filtrate concentrated to dryness. The material was treated with THF, the solids removed via filtration and the filtrate concentrated to dryness, treated with DCM and sonicated. The resulting solid was collected via filtration and dried to afford 5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine (800 mg, 68%). 1H NMR (400 MHz, DMSO-d6): δ 8.39 (d, J=1.4 Hz, 1H), 8.28 (d, J=5.8 Hz, 1H), 7.83 (d, J=2.9 Hz, 1H), 7.63 (s, 1H), 7.31-7.30 (m, 2H), 6.70 (dd, J=5.8, 2.2 Hz, 1H), 6.51 (d, J=8.9 Hz, 1H), 6.05 (s, 2H), 2.14 (d, J=1.0 Hz, 3H); MS (ESI) m/z: 268.2 (M+H+).

reactant | 2-(4-methyl-1H-imidazol-1-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 4.37 mmol, 1.3 g | CC=1N=CN(C1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C14H11N5O3
reactant | NH4Cl | 131 mmol, 7.02 g | [NH4+].[Cl-]
solvent | MeOH | 20 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc | 43.7 mmol, 2.86 g | [Zn] | Zn
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine | 800 mg, 68% | CC=1N=CN(C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H13N5O
